US07919504B2
(R)-tert-Butyl 3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-1-(6-(trifluoromethyl)pyridin-3-yl)propan-2-ylcarbamate.
(S)-tert-Butyl 1-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-1-oxo-3-(6-(trifluoromethyl)pyridin-3-yl)propan-2-ylcarbamate in 100 mL DCM was cooled to −5° C. Acetic acid (4.45 g, 74.1 mmol) was added in one portion. The resulting mixture was stirred for 5 minutes and sodium borohydride (0.637 g, 16.8 mmol) was added portion-wise over 40 minutes. After stirring for another 40 minutes, the reaction mixture was washed with brine (3×150 mL) and water (2×100 mL). The organic layer was dried over MgSO4. After removing the solvent, the desired product compound (2.5 g, 83%) was obtained as a white solid. LCMS (API-ES) m/z (%): 447.0 (100%, M+H+).

reactant | (S)-tert-Butyl 1-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-1-oxo-3-(6-(trifluoromethyl)pyridin-3-yl)propan-2-ylcarbamate | CC1(OC(C(C(O1)=O)C([C@H](CC=1C=NC(=CC1)C(F)(F)F)NC(OC(C)(C)C)=O)=O)=O)C | C20H23F3N2O7
reactant | Acetic acid | 74.1 mmol, 4.45 g | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 16.8 mmol, 0.637 g | [BH4-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-Butyl 3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-1-(6-(trifluoromethyl)pyridin-3-yl)propan-2-ylcarbamate | CC1(OC(C(C(O1)=O)C[C@H](CC=1C=NC(=CC1)C(F)(F)F)NC(OC(C)(C)C)=O)=O)C | C20H25F3N2O6
